parameters sky130_fd_pr__special_pfet_01v8_hvt__toxe_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__vth0_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__voff_slope_spectre=0.0
parameters sky130_fd_pr__special_pfet_01v8_hvt__nfactor_slope_spectre=0.0
subckt sky130_fd_pr__special_pfet_01v8_hvt (d g s b)
parameters l=1 w=1 nf=1.0 ad=0 as=0 pd=0 ps=0 nrd=0 nrs=0 sa=0 sb=0 sd=0 mult=1
msky130_fd_pr__special_pfet_01v8_hvt (d g s b) m_sky130_fd_pr__special_pfet_01v8_hvt__model l=l w=w nf=nf ad=ad as=as pd=pd ps=ps nrd=nrd nrs=nrs sa=sa sb=sb sd=sd
@if l*$scale >= 1.5e-7 && l*$scale < 1.8e-7 && w*$scale >= 3.6e-7 && w*$scale < 4.2e-7
    model m_sky130_fd_pr__special_pfet_01v8_hvt__model sp_bsim4v8       binunit=2.0 mobmod=0.0 capmod=2.0 igcmod=0.0 igbmod=0.0 geomod=0.0 diomod=1.0 rdsmod=0.0 rbodymod=1.0 rgatemod=0.0 permod=1.0 acnqsmod=0.0 trnqsmod=0.0 fnoimod=1.0 tnoimod=1.0 tempmod=0.0 toxe=4.23e-09 + mc_mm_switch * 0 * (4.23e-9 * 1.0 * (sky130_fd_pr__special_pfet_01v8_hvt__toxe_slope / sqrt(l * w * mult))) toxm=4.23e-9 dtox=0.0 epsrox=3.9 xj=1.5e-7 ngate=1.0e+23 ndep=1.7e+17 nsd=1.0e+20 rsh=1.0 rshg=0.1 wint=9.364e-9 lint=-2.026e-8 vth0=-1.997749953e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__vth0_slope / sqrt(l * w * mult)) lvth0=-1.873244639e-07 wvth0=-2.784328784e-07 pvth0=6.140001835e-14 k1=-1.942612612e+00 lk1=6.161894372e-07 wk1=8.145174970e-07 pk1=-1.796173984e-13 k2=-8.663270902e-02 lk2=-1.053000443e-08 wk2=1.525480424e-07 pk2=-3.363989431e-14 k3=-13.778 k3b=2.0 w0=0.0 dvt0=4.05 dvt1=0.3 dvt2=0.03 dvt0w=-4.254 dvt1w=1147200.0 dvt2w=-0.00896 dsub=7.017835139e+00 ldsub=-1.401558843e-06 wdsub=-2.103771966e-06 pdsub=4.639237939e-13 minv=0.0 voffl=0.0 lpe0=0.0 lpeb=0.0 vbm=-3.0 dvtp0=0.0 dvtp1=0.0 phin=0.0 cdsc=0.0 cdscb=0.0 cdscd=0.0 cit=1.0e-5 voff=4.853301413e-01 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__voff_slope / sqrt(l * w * mult)) lvoff=-1.646287895e-07 wvoff=-2.746055237e-07 pvoff=6.055601009e-14 nfactor=7.365099587e+00 + mc_mm_switch * 0 * (sky130_fd_pr__special_pfet_01v8_hvt__nfactor_slope / sqrt(l * w * mult)) lnfactor=-1.200188742e-06 wnfactor=-4.340729115e-06 pnfactor=9.572175843e-13 eta0=8.400758601e+00 leta0=-1.744480487e-06 weta0=-3.174365925e-06 peta0=7.000111738e-13 etab=4.590023598e-01 letab=-1.012205786e-07 wetab=-1.826105146e-07 petab=4.026927068e-14 u0=-3.472902665e-03 lu0=1.232048033e-09 wu0=-1.551885481e-09 pu0=3.422217863e-16 ua=-3.435785141e-09 lua=1.733622700e-16 wua=-1.134355920e-15 pua=2.501481675e-22 ub=2.657584049e-18 lub=-6.720460536e-26 wub=1.066698111e-24 pub=-2.352282675e-31 uc=-3.742083373e-10 luc=8.257732575e-17 wuc=1.997496245e-16 puc=-4.404878720e-23 ud=0.0 up=0.0 lp=1.0 eu=1.67 vtl=0.0 xn=3.0 vsat=3.912086591e+06 lvsat=-8.262539486e-01 wvsat=-1.365983273e+00 pvsat=3.012266314e-7 a0=1.977516561e+00 la0=-1.788861682e-07 wa0=8.563083787e-08 pa0=-1.888331237e-14 ags=1.249999985e+00 lags=3.332713661e-15 wags=6.064414748e-15 pags=-1.337324473e-21 a1=0.0 a2=-9.073383837e+00 la2=2.100647011e-06 wa2=3.359617749e-06 pa2=-7.408629060e-13 b0=0.0 b1=0.0 keta=-1.610291043e+00 lketa=3.488785845e-07 wketa=6.068560841e-07 pketa=-1.338239037e-13 dwg=-5.722e-9 dwb=-1.7864e-8 pclm=2.179197569e+00 lpclm=-2.982617346e-07 wpclm=-2.774589244e-08 ppclm=6.118524200e-15 pdiblc1=1.164651831e-01 lpdiblc1=1.572370822e-08 wpdiblc1=9.110370374e-08 ppdiblc1=-2.009018875e-14 pdiblc2=6.689112786e-02 lpdiblc2=-1.327458055e-08 wpdiblc2=-1.653930299e-08 ppdiblc2=3.647247095e-15 pdiblcb=-9.631244073e+00 lpdiblcb=2.074264943e-06 wpdiblcb=4.491184323e-06 ppdiblcb=-9.903959668e-13 drout=9.860653258e-01 ldrout=2.654834583e-09 wdrout=6.165500110e-15 pdrout=-1.359615975e-21 pscbe1=1.299183743e+09 lpscbe1=-1.100869344e+02 wpscbe1=-2.004001287e+02 ppscbe1=4.419223639e-5 pscbe2=1.579775404e-08 lpscbe2=-1.429029524e-15 wpscbe2=-2.993343308e-15 ppscbe2=6.600920663e-22 pvag=0.0 delta=0.01 fprout=0.0 pdits=0.0 pditsl=0.0 pditsd=0.0 lambda=0.0 lc=5.0e-9 rdsw=531.92 rsw=0.0 rdw=0.0 rdswmin=0.0 rdwmin=0.0 rswmin=0.0 prwb=-0.32348 prwg=0.02 wr=1.0 alpha0=1.0e-10 alpha1=1.0e-10 beta0=2.366162204e+01 lbeta0=-3.214389391e-06 wbeta0=-4.056941542e-06 pbeta0=8.946367488e-13 agidl=-1.543105806e-07 lagidl=3.467387114e-14 wagidl=6.000266278e-14 pagidl=-1.323178720e-20 bgidl=1.000000011e+09 lbgidl=-2.319414139e-06 wbgidl=-4.220550537e-06 pbgidl=9.307160378e-13 cgidl=300.0 egidl=0.1 toxref=4.23e-9 dlcig=0.0 aigbacc=0.43 bigbacc=0.054 cigbacc=0.075 nigbacc=1.0 aigbinv=0.35 bigbinv=0.03 cigbinv=0.006 eigbinv=1.1 nigbinv=3.0 aigc=0.43 bigc=0.054 cigc=0.075 aigsd=0.43 bigsd=0.054 cigsd=0.075 nigc=1.0 poxedge=1.0 pigcd=1.0 ntox=1.0 vfbsdoff=0.0 dlc=-1.106e-8 dwc=0.0 xpart=0.0 cgso=5.93202e-11 cgdo=5.93202e-11 cgbo=0.0 cgdl=7.513892e-12 cgsl=7.513892e-12 clc=1.0e-7 cle=0.6 cf=1.2e-11 ckappas=0.6 vfbcv=-0.1446893 acde=0.552 moin=14.504 noff=4.0 voffcv=-0.1375 xrcrg1=12.0 xrcrg2=1.0 rbpb=50.0 rbpd=50.0 rbps=50.0 rbdb=50.0 rbsb=50.0 gbmin=1.0e-12 ef=0.88 noia=1.2e+41 noib=2.0e+25 noic=0.0 em=41000000.0 ntnoi=1.0 lintnoi=-6.0e-8 af=1.0 kf=0.0 tnoia=1.5 tnoib=3.5 rnoia=0.577 rnoib=0.37 xl=0.0 xw=0.0 dmcg=0.0 dmdg=0.0 dmcgt=0.0 xgw=0.0 xgl=0.0 ngcon=1.0 jss=2.17e-5 jsws=8.2e-10 ijthsfwd=0.1 ijthsrev=0.1 bvs=12.8 xjbvs=1.0 pbs=0.6587 cjs=0.0007432633326 mjs=0.34629 pbsws=0.7418 cjsws=9.5078641e-11 mjsws=0.26859 pbswgs=1.3925 cjswgs=2.54074486e-10 mjswgs=0.70393 tnom=30.0 kt1=6.383460612e-01 lkt1=-2.600958558e-07 wkt1=-5.216542880e-07 pkt1=1.150352036e-13 kt2=1.150606588e+00 lkt2=-2.630670379e-07 wkt2=-4.622717210e-07 pkt2=1.019401599e-13 at=5.333259814e+04 lat=1.140273678e-02 wat=1.937588049e-01 pat=-4.272769165e-8 ute=-2.087825043e+00 lute=3.666795630e-07 wute=-3.973519291e-15 pute=8.762401915e-22 ua1=-6.016759380e-10 lua1=1.973667094e-16 wua1=-1.043621009e-15 pua1=2.301393049e-22 ub1=4.863660387e-18 lub1=-1.060499730e-24 wub1=-1.865208340e-25 pub1=4.113157431e-32 uc1=-9.773734095e-10 luc1=2.026663501e-16 wuc1=4.311016023e-16 puc1=-9.506652534e-23 kt1l=0.0 prt=0.0 tvoff=0.0 njs=1.2556 tpb=0.0019551 tcj=0.0012407 tpbsw=0.00014242 tcjsw=0.0 tpbswg=0.0 tcjswg=2.0e-12 xtis=2.0 tvfbsdoff=0.0 ll=0.0 wl=0.0 lln=1.0 wln=1.0 lw=0.0 ww=0.0 lwn=1.0 wwn=1.0 lwl=0.0 wwl=0.0 llc=0.0 wlc=0.0 lwc=0.0 wwc=0.0 lwlc=0.0 wwlc=0.0 saref=1.04e-6 sbref=1.04e-6 kvth0=2.65e-8 lkvth0=0.0 wkvth0=2.5e-7 pkvth0=0.0 llodvth=0.0 wlodvth=1.0 wlod=0.0 stk2=0.0 lodk2=1.0 lodeta0=1.0 ku0=4.5e-8 lku0=0.0 wku0=2.5e-7 pku0=0.0 tku0=0.0 llodku0=0.0 wlodku0=1.0 kvsat=0.4 steta0=0.0 type=-1
@end

ends // sky130_fd_pr__special_pfet_01v8_hvt
